US06174885B1
[6-[[N-(3-Morpholinopropyl)carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide hydrochloride (Compound 4)
4N Hydrochloric acid/ethyl acetate solution (0.26 ml) was added to a solution of [6-[[N-(3-morpholinopropyl)carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide (0.30 g) in ethyl acetate (4 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was crystallized with ethyl acetate, thereby yielding the entitled compound (0.26 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.26 ml | Cl.C(C)(=O)OCC
reactant | [6-[[N-(3-morpholinopropyl)carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide | 0.30 g | O1CCN(CC1)CCCNC(=O)OCC1CC=CCC1N(C=O)CCCCCCCCCCCCCCCCCC | C34H63N3O4
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | [6-[[N-(3-Morpholinopropyl)carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide hydrochloride | 0.26 g | Cl.O1CCN(CC1)CCCNC(=O)OCC1CC=CCC1N(C=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C34H63N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-37(31-38)33-22-18-17-21-32(33)30-41-34(39)35-23-20-24-36-26-28-40-29-27-36;/h17-18,31-33H,2-16,19-30H2,1H3,(H,35,39);1H
